US07157487B2
(Step 1) Synthesis of (Z)-4-benzyloxy-1-bromo-2-butene
To a solution of (Z)-4-benzyloxy-2-buten-1-ol (2.0 g, 11.2 mmol) in methylene chloride (40 ml) were added carbon tetrabromide (4.46 g, 13.4 mmol) and triphenylphosphine (3.51 g, 13.4 mmol) at 0° C. under stirring in a nitrogen gas stream. After stirring at room temperature for 1.5 hours, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column (silica gel: 50 g), whereby from hexane/ethyl acetate (4/1) eluate fractions, the title compound (2.76 g, 100%) was obtained as a colorless oil.

reactant | (Z)-4-benzyloxy-2-buten-1-ol | 11.2 mmol, 2.0 g | C(C1=CC=CC=C1)OC\C=C/CO | C11H14O2
reactant | carbon tetrabromide | 13.4 mmol, 4.46 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 13.4 mmol, 3.51 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | (Z)-4-benzyloxy-1-bromo-2-butene | 2.76 g, 100% | C(C1=CC=CC=C1)OC\C=C/CBr | C11H13BrO
